US08669266B2
(i) (S)-2-Cyclobutylcarbamoyl-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 1.5 g of (S)-Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester in 30 ml of DMF, 948 mg of HOAT, 1.3 g of EDC and 495 mg of cyclobutylamine was added and the reaction mixture was stirred for 16 h at RT. Then, water was added and the reaction mixture was extracted with DCM. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was pure enough for the next reaction step.

reactant | (S)-Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 1.5 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O | C10H17NO4
reactant | HOAT | 948 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 1.3 g
reactant | cyclobutylamine | 495 mg | C1(CCC1)N | C4H9N
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-2-Cyclobutylcarbamoyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O | C14H24N2O3
